US05321135
Synthesis of dimethyl 6,7-dihydro-1,2,3,9,10,11-hexamethoxy-5H-dibenzo[a,c]cycloheptene-6,6-dicarboxylate
Dissolved in 4 ml of dichloromethane were 200 mg (0.41 mmol) of dimethyl 1,3-bis(3,4,5-trimethoxyphenyl)propane-2,2-dicarboxylate. The solution was added with 0.4 ml of trifluoroacetic acid and 580 mg (1.25 mmol) of ferric perchlorate, followed by stirring at room temperature for 2 hours. After the reaction mixture was added with 2N-HCl and then dissolved in 20 ml of ethyl acetate, the water layer was removed. The organic layer was washed with water and then with saturated NaHCO3, and then was dried over anhydrous magnesium sulfate. The solvent was thereafter distilled off under reduced pressure. The residue thus obtained was purified by column chromatography (silica gel: "MERCK #9385", 10 g, eluent: 1:1 mixed solvent of ethyl acetate and hexane), whereby 183 mg of the title compound were obtained as a colorless solid (yield: 92%).

reactant | dimethyl 1,3-bis(3,4,5-trimethoxyphenyl)propane-2,2-dicarboxylate | 0.41 mmol, 200 mg | COC=1C=C(C=C(C1OC)OC)CC(CC1=CC(=C(C(=C1)OC)OC)OC)(C(=O)OC)C(=O)OC | C25H32O10
reactant | trifluoroacetic acid | 0.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | Cl | ClH
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | dimethyl 6,7-dihydro-1,2,3,9,10,11-hexamethoxy-5H-dibenzo[a,c]cycloheptene-6,6-dicarboxylate | 183 mg | COC1=C(C(=CC2=C1C1=C(CC(C2)(C(=O)OC)C(=O)OC)C=C(C(=C1OC)OC)OC)OC)OC | C25H30O10
